US06734183B2
A mixture of 4,6-dichloropyrimidine (39.4 g), 1-mesylpiperazine hydrochloride (55.7 g) and triethylamine (116 ml) in ethanol (500 ml) was stirred at reflux temperature for 4 hours. The mixture was then stirred at room temperature for 12 hours. The solid, which had separated, was collected by filtration, slurry washed with ethanol (2×80 ml, 160 ml) then with diethyl ether (150 ml), and dried to give 1-(6-chloropyrimidin-4-yl)-4-mesylpiperazine as a cream solid (71.9 g). mp 200-202° C.

reactant | 4,6-dichloropyrimidine | 39.4 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 1-mesylpiperazine hydrochloride | 55.7 g | Cl.S(=O)(=O)(C)N1CCNCC1
reactant | triethylamine | 116 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-(6-chloropyrimidin-4-yl)-4-mesylpiperazine | 71.9 g | ClC1=CC(=NC=N1)N1CCN(CC1)S(=O)(=O)C | C9H13ClN4O2S
